US06716843B2
(S)-N-[4-Amino-5-oxo-5-(1-pyrrolidinyl)-pentyl]-cyclopropane-sulphonamide Hydrochloride
Starting from (S)-N5-(benzyloxycarbonyl)-N2-(tert-butyloxycarbonyl)-ornithine, cyclopropanesulphonyl chloride and pyrrolidine, the expected product is obtained according to the procedure described in Example 3.

reactant | (S)-N5-(benzyloxycarbonyl)-N2-(tert-butyloxycarbonyl)-ornithine | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](NC(=O)OC(C)(C)C)C(=O)O | C18H26N2O6
reactant | cyclopropanesulphonyl chloride | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (S)-N-[4-Amino-5-oxo-5-(1-pyrrolidinyl)-pentyl]-cyclopropane-sulphonamide Hydrochloride | Cl.N[C@@H](CCCNS(=O)(=O)C1CC1)C(N1CCCC1)=O | InChI=1S/C12H23N3O3S.ClH/c13-11(12(16)15-8-1-2-9-15)4-3-7-14-19(17,18)10-5-6-10;/h10-11,14H,1-9,13H2;1H/t11-;/m0./s1
